US04178449
3-Cyano-7-(α,α,α-trifluoro-m-tolyl)pyrazolo[1,5-a]pyrimidine-2-carboxamide
A mixture of 4.86 g. of 3-dimethylamino-3'-(trifluoromethyl)acrylophenone, 50 ml. of glacial acetic acid and 2.66 g. of 3-aminopyrazole-4,5-dicarbonitrile is refluxed for 16 hours and then evaporated. The residue is treated as described in Example 1, giving the desired product, m.p. 236°-238° C.

reactant | 3-dimethylamino-3'-(trifluoromethyl)acrylophenone | CN(C=CC(=O)C1=CC(=CC=C1)C(F)(F)F)C | C12H12F3NO
reactant | 3-aminopyrazole-4,5-dicarbonitrile | NC1=NNC(=C1C#N)C#N | C5H3N5
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | 3-Cyano-7-(α,α,α-trifluoro-m-tolyl)pyrazolo[1,5-a]pyrimidine-2-carboxamide | C(#N)C=1C(=NN2C1N=CC=C2C=2C=C(C=CC2)C(F)(F)F)C(=O)N | C15H8F3N5O
